US07592373B2
5.2.d. (E)-N-(4′-chlorobiphenyl-4-yl)-3-[4-(4-methylpiperidin-1-ylmethyl)phenyl]acrylamide
Prepared analogously to Example 4.30.c. from (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)acrylamide and 4-methylpiperidine. Yield: 80 mg (21.7% of theory); melting point: 207° C.-208° C.; C28H29ClN2O (M=445.00); calc.: molecular ion peak (M+H)+: 445/447; found: molecular ion peak (M+H)+: 445/447; Rf value: 0.76 (silica gel, dichloromethane/methanol (10:1)).

reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)C=O)=O | C22H16ClNO2
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
solvent | dichloromethane methanol | ClCCl.CO
product | (E)-N-(4′-chlorobiphenyl-4-yl)-3-[4-(4-methylpiperidin-1-ylmethyl)phenyl]acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CN1CCC(CC1)C)=O | C28H29ClN2O
